US06503907B2
In analogy to example 4.6, Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine and 1-bromo-2-fluoro-benzene were converted to yield Allyl-{5-[1-(2-bromo-phenyl)-1H-indol-5-yl]-pentyl}-methyl-amine as yellow oil, MS: 411 (MH+, 1Br).

reactant | Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine | C(C=C)N(C)CCCCCC=1C=C2C=CNC2=CC1 | C17H24N2
reactant | 1-bromo-2-fluoro-benzene | BrC1=C(C=CC=C1)F | C6H4BrF
product | Allyl-{5-[1-(2-bromo-phenyl)-1H-indol-5-yl]-pentyl}-methyl-amine | C(C=C)N(C)CCCCCC=1C=C2C=CN(C2=CC1)C1=C(C=CC=C1)Br | C23H27BrN2
